US04631147
Synthesis of 1-allyl-2,2,6,6-tetramethylcyclohexan-1-ol
Magnesium (11.5 g, 0.48 moles) and dried diethyl ether (300 ml) were added, in this order, to one liter four-necked flask equipped with a mechanical stirrer, a dropping funnel, a thermometer, a reflux condenser and a nitrogen gas inlet tube and stirred at room temperature. While stirring at room temperature, a mixed solution of allyl bromide (57.7 g, 0.48 moles)/dried diethyl ether (100 ml) was dropped to the mixture in 2 hours. The resulting mixture was heated under reflux for 30 minutes. Into the mixture was dropped a mixed solution of 2,2,6,6-tetramethylcyclohexanone (49 g, 0.32 moles)/dried diethyl ether (100 ml) in about 40 minutes while stirring under heating and refluxing conditions. The mixture was further stirred for 2 hours under refluxing conditions. The resultant reaction mixture was poured into iced water, followed by adding a 1N hydrochloric acid aqueous solution to render the mixture weakly acidic and separating it into two layers. The organic layer was washed with a saturated sodium bicarbonate aqueous solution (50 ml) and then with water (50 ml) three times. The organic layer was dried over anhydrous magnesium sulfate and separated by filtration, followed by concentration and fractionation to obtain 42.7 g (yield 68%) of the captioned compound. This compound was a colorless transparent liquid having a woody, green, earthy and patchuli oil-like odor.

reactant | Magnesium | 0.48 moles, 11.5 g | [Mg] | Mg
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 2,2,6,6-tetramethylcyclohexanone | CC1(C(C(CCC1)(C)C)=O)C | C10H18O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.32 moles, 100 ml, 49 g | C(C)OCC | C4H10O
solvent | diethyl ether | 0.48 moles, 100 ml, 57.7 g | C(C)OCC | C4H10O
product | 1-allyl-2,2,6,6-tetramethylcyclohexan-1-ol | 42.7 g, yield 68% | C(C=C)C1(C(CCCC1(C)C)(C)C)O | C13H24O
